US07351733B2
6-Bromo-N-(4-fluorophenyl)-2,3,4,9-tetrahydro-1H-carbazol-1-amine was prepared from 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-one (100 mg, 0.38 mmol) and 4-fluoroaniline (84 mg, 0.76 mmol) in a similar manner as described in Example 13 to give 26 mg (19%) of an off-white solid. 1H-NMR (DMSO-d6): δ 811.07 (s, 1H), 7.55 (d, 1H), 7.23 (d, 1H), 7.12 (dd, 1H), 6.92 (t, 2H), 6.70-6.68 (m, 2H), 5.89 (d, 1H), 4.73-4.71 (m, 1H), 2.68-2.53 (m, 2H), 1.99-1.73 (m, 4H); MS m/z (M−1) 357, 359.

reactant | 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-one | 0.38 mmol, 100 mg | BrC=1C=C2C=3CCCC(C3NC2=CC1)=O | C12H10BrNO
reactant | 4-fluoroaniline | 0.76 mmol, 84 mg | FC1=CC=C(N)C=C1 | C6H6FN
product | 6-Bromo-N-(4-fluorophenyl)-2,3,4,9-tetrahydro-1H-carbazol-1-amine | BrC=1C=C2C=3CCCC(C3NC2=CC1)NC1=CC=C(C=C1)F | C18H16BrFN2
